US06136831
6-Fluoro-2-(1-hydroxyethyl)benzoxazole (4.71 g, 26 mmol) was dissolved in 100 ml of methylene chloride, and pyridinium chlorochromate (8.38 g, 39 mmol) was added portionwise to the solution. The mixture was stirred for 4 hours at room temperature, then diluted with ether, and filtered. The filtrate was concentrated and the resulting residue was subjected to column chromatography and then recrystallization from methanol to afford 2-acetyl-6-fluorobenzoxazole (1.92 g, yield: 41%).

reactant | 6-Fluoro-2-(1-hydroxyethyl)benzoxazole | 26 mmol, 4.71 g | FC1=CC2=C(N=C(O2)C(C)O)C=C1 | C9H8FNO2
reactant | pyridinium chlorochromate | 39 mmol, 8.38 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2-acetyl-6-fluorobenzoxazole | 1.92 g, yield: 41% | C(C)(=O)C=1OC2=C(N1)C=CC(=C2)F | C9H6FNO2
